US08957218B2
Iodoacetic acid (409.3 g, 2.2 mol, 1.5 eq) is added in one portion to a solution of tert-butyl [5-(methoxymethyl)-1,3,4-thiadiazol-2-yl]carbamate a13 (360 g, 1.47 mol, 1 eq) in tetrahydrofurane (3 l) at room temperature. Sodium hydride (52.8 g, 2.2 mol, 1.5 eq) is then added portionwise, in 30 minutes, at room temperature. The reaction mixture is heated at 60° C. overnight, and the solvent is evaporated under reduced pressure. Water is added to the residue, the solution is acidified to pH=2 with aqueous 6N HCl, then extracted with CH2Cl2. The organic layer is washed with 10% aqueous sodium thiosulfate and evaporated to dryness to afford 455.7 g of {2-[(tert-butoxy-carbonyl)imino]-5-(methoxymethyl)-1,3,4-thiadiazol-3(2H)-yl}acetic acid a14 which is used directly in the next step without any further purification.

reactant | Iodoacetic acid | 2.2 mol, 409.3 g, 1.5 eq | ICC(=O)O | C2H3IO2
reactant | tert-butyl [5-(methoxymethyl)-1,3,4-thiadiazol-2-yl]carbamate | COCC1=NN=C(S1)NC(OC(C)(C)C)=O | C9H15N3O3S
reactant | Sodium hydride | 2.2 mol, 52.8 g, 1.5 eq | [H-].[Na+]
solvent | tetrahydrofurane | 3 l | O1CCCC1 | C4H8O
product | {2-[(tert-butoxy-carbonyl)imino]-5-(methoxymethyl)-1,3,4-thiadiazol-3(2H)-yl}acetic acid | 455.7 g, Yield: 90% | C(C)(C)(C)OC(=O)N=C1SC(=NN1CC(=O)O)COC | C11H17N3O5S
